US05773388
Synthesis of 1-Chloro-1,1-difluoro-5,5-dimethyl-2,4-hexanedione (Compound No. 301)
7.1 g of sodium methoxide was added to 100 ml of dry ether, and the mixture was stirred. A solution of 20 g of ethyl chlorodifluoroacetate diluted with 25 ml of dry ether was added dropwise at room temperature. Further, a solution of 12.5 g of pinacolone diluted with 25 ml of dry ether was added dropwise, and the mixture was stirred overnight at room temperature. Then, to the reaction solution, a solution of 8.4 g of glacial acetic acid diluted with 100 ml of water and a solution of 23.6 g of copper (II) acetate dissolved in a proper amount of water were added dropwise successively. The dropwise addition was followed by stirring for about 10 minutes. Then, the ether was distilled off under reduced pressure and the solid mass was filtered off. After vacuum drying, 100 ml of 6N hydrochloric acid was added, and extraction with ethyl acetate was carried out. The ethyl acetate layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. Then, the residue was subjected to vacuum distillation to obtain 13 g of the desired product. (b.p. 54°-57° C./5 mmHg)

reactant | sodium methoxide | 7.1 g | C[O-].[Na+]
reactant | ethyl chlorodifluoroacetate | 20 g | ClC(C(=O)OCC)(F)F | C4H5ClF2O2
reactant | pinacolone | 12.5 g | CC(C(C)(C)C)=O | C6H12O
reactant | acetic acid | 8.4 g | C(C)(=O)O | C2H4O2
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | water | 100 ml | O | H2O
catalyst | copper (II) acetate | 23.6 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-Chloro-1,1-difluoro-5,5-dimethyl-2,4-hexanedione | 13 g | ClC(C(CC(C(C)(C)C)=O)=O)(F)F | C8H11ClF2O2
